US05332741
8-{[4-(7,9-DIOXO-8-AZASPIRO[4.5]DECAN-8-YL) -BUTYL]OXY}THIOCHROMAN
2 g (6.62 mmol) of 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione, 2.5 g (18.04 mmol) of potassium carbonate and a catalytic amount of potassium iodide are added, with stirring, to 1 g (6.015 mmol) of 8-thiochromanol dissolved in 10 cm3 of N,N-dimethylformamide.

reactant | 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione | 6.62 mmol, 2 g | BrCCCCN1C(CC2(CCCC2)CC1=O)=O | C13H20BrNO2
reactant | potassium carbonate | 18.04 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 8-thiochromanol | 6.015 mmol, 1 g | S1CCCC2=CC=CC(=C12)O | C9H10OS
solvent | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | 8-{[4-(7,9-DIOXO-8-AZASPIRO[4.5]DECAN-8-YL) -BUTYL]OXY}THIOCHROMAN | O=C1CC2(CCCC2)CC(N1CCCCOC=1C=CC=C2CCCSC12)=O | C22H29NO3S
